US08076516B2
Coupling of 1-(3-bromophenethyl)cyclohexanol with N-allyl-2,2,2-trifluoroacetamide following the method described in Example 118 gives (E)-2,2,2-trifluoro-N-(3-(3-(2-(1-hydroxycyclohexyl)ethyl)phenyl)allyl)acetamide.

reactant | 1-(3-bromophenethyl)cyclohexanol | BrC=1C=C(CCC2(CCCCC2)O)C=CC1 | C14H19BrO
reactant | N-allyl-2,2,2-trifluoroacetamide | C(C=C)NC(C(F)(F)F)=O | C5H6F3NO
product | (E)-2,2,2-trifluoro-N-(3-(3-(2-(1-hydroxycyclohexyl)ethyl)phenyl)allyl)acetamide | FC(C(=O)NC\C=C\C1=CC(=CC=C1)CCC1(CCCCC1)O)(F)F | C19H24F3NO2
